US04171361
A solution of 24 g. of phosgene in toluene was added rapidly to a solution of 58.1 g. of N,N-dimethylaniline in 500 ml. of toluene, which solution has been previously cooled to about 0° C. with an ice-water bath. After stirring the resulting solution for about five minutes, a solution of 39.8 g. of 2-methylthio-4,5-dimethoxyaniline in 350 ml. of toluene was added on dropwise fashion over a 30 minute period to the cooled, stirred reaction mixture. The reaction mixture was allowed to warm to ambient temperature, at which temperature it was stirred for an additional four hours. The reaction mixture was then filtered, and the filtrate concentrated under reduced pressure to a thick oil. The oil was dissolved in 1 l. of acetonitrile and 50 ml. of pyrrolidine were added thereto. This new reaction mixture was stirred for about 20 hours, after which time it was concentrated under reduced pressure to a thick oil. The residual oil was dissolved in 1 l. of methylene chloride. The methylene chloride solution was washed twice with 5 percent aqueous hydrochloric acid and once with water. The methylene chloride solution was then dried and the solvent removed therefrom in vacuo, leaving a solid residue comprising N-pyrrolidinylcarbonyl-2-methylthio-4,5-dimethoxyaniline. Recrystallization of the solid from a benzene-hexane solvent mixture yield crystalline material melting at 141°-3° C. (91 percent yield).

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | N,N-dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
reactant | 2-methylthio-4,5-dimethoxyaniline | CSC1=C(N)C=C(C(=C1)OC)OC | C9H13NO2S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-pyrrolidinylcarbonyl-2-methylthio-4,5-dimethoxyaniline | N1(CCCC1)C(=O)NC1=C(C=C(C(=C1)OC)OC)SC | C14H20N2O3S
